US04999381
4-Amino-2-chloro-N,N-dimethylbenzamide (1.0 g) and triethylamine (1.21 g) were dissolved in methylene chloride (20 ml) and the solution was cooled to 0°-5° C. 2,2-Dimethylpropionyl chloride (1.21 g) was added dropwise keeping the temperature below 10° C. and the resulting orange solution stirred at 0°-10° C. for 0.5 hour. The organic solution was then washed with aqueous sodium bicarbonate and then water, dried and evaporated to give an orange solid. This was recrystallised from 3:1 ethyl acetate:chloroform to give 2-chloro-(2',2'-dimethylpropionamido)-N,N-dimethylbenzamide as an off-white crystalline solid (1.027 g), m.p. 202°-203° C.

reactant | 4-Amino-2-chloro-N,N-dimethylbenzamide | 1.0 g | NC1=CC(=C(C(=O)N(C)C)C=C1)Cl | C9H11ClN2O
reactant | triethylamine | 1.21 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-Dimethylpropionyl chloride | 1.21 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-(2',2'-dimethylpropionamido)-N,N-dimethylbenzamide | 1.027 g | ClC1=C(C(=O)N(C)C)C=CC=C1NC(C(C)(C)C)=O | C14H19ClN2O2
